US07074800B1
6-Methoxy-7-(3-methylsulphonylpropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (7 g, 17 mmol) was suspended in methanol and 2M sodium hydroxide (3.3 ml, 6.6 mmol) was added with continuous stirring. The reaction mixture became homogeneous after 15 minutes. After a further 45 minutes water was added (7 ml) and the reaction mixture was adjusted to pH10 with 2M hydrochloric acid. The precipitate (a white solid) was collected by filtration, washed with water and dried over phosphorus pentoxide under vacuum to give 6-methoxy-7-(3-methylsulphonylpropoxy)-3,4-dihydroquinazolin-4-one (5 g, 90%).

reactant | 6-Methoxy-7-(3-methylsulphonylpropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 17 mmol, 7 g | COC=1C=C2C(N(C=NC2=CC1OCCCS(=O)(=O)C)COC(C(C)(C)C)=O)=O | C19H26N2O7S
reactant | sodium hydroxide | 6.6 mmol, 2M, 3.3 ml | [OH-].[Na+]
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-methoxy-7-(3-methylsulphonylpropoxy)-3,4-dihydroquinazolin-4-one | 5 g, 90% | COC=1C=C2C(NC=NC2=CC1OCCCS(=O)(=O)C)=O | C13H16N2O5S
